US07179823B1
A toluene solution (1.74 g) of 40% diethyl azodicarboxylate was added dropwise slowly to a mixture of ethyl 3-[1-(4-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate (873 mg), 2-thiophenemethanol (0.237 ml), triphenyl phosphine (984 mg), and tetrahydrofuran (20 ml) at room temperature. After the solution was stirred overnight at room temperature, the reaction solvent was removed under reduced pressure. The residue was subjected to silica gel column chromatography, and ethyl 3-[1-[4-(2-thienylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionate (620 mg, yield: 56%) was obtained as an oily substance from the fraction eluted with ethyl acetate-hexane (1:4, volume ratio).

reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | ethyl 3-[1-(4-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate | 873 mg | OC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C1 | C22H23NO3
reactant | 2-thiophenemethanol | 0.237 ml | S1C(=CC=C1)CO | C5H6OS
reactant | triphenyl phosphine | 984 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | toluene | 1.74 g | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-[1-[4-(2-thienylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionate | 620 mg, yield: 56% | S1C(=CC=C1)COC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C1 | C27H27NO3S
